US08003662B2
Step A: Preparation of N,N-diethylbut-3-yn-1-amine:
Prepared using methodology described by Olomucki, M., et al. Ann. Chim. 1960, 5, 845. A stirred mixture of but-3-ynyl 4-methylbenzenesulfonate (21.2 g, 94.5 mmol), diethylamine (6.91 g, 94.5 mmol), and p-dioxane (100 mL) was heated to 80° C. under N2 for 6 hours. After cooling to room temperature, the suspension was diluted with diethyl ether (100 mL) and filtered. The solids were washed with diethyl ether (50 mL). The filtrate was concentrated to a brown oil. The crude was co-distilled (55-65° C.) with p-dioxane under a mild vacuum (10-50 torr). The product was obtained as an oil (7.6 g, 27%), in a 42:58 mixture with p-dioxane based on 1H NMR. 1H NMR (400 MHz, CDCl3) δ 2.70 (t, J=8 Hz, 2H), 2.55 (q, J=7 Hz, 4H), 2.32 (m, 2H), 1.97 (t, J=3 Hz, 1H), 1.04 (t, J=7 Hz, 6H).

reactant | but-3-ynyl 4-methylbenzenesulfonate | 94.5 mmol, 21.2 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | diethylamine | 94.5 mmol, 6.91 g | C(C)NCC | C4H11N
reactant | p-dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | N,N-diethylbut-3-yn-1-amine | 7.6 g, 27% | C(C)N(CCC#C)CC | C8H15N
